US04909935
4-Methoxyphenylalaninate was first prepared by reacting N-benzyloxycarbonyl-(S)-alanine (10.9 g, 0.049 mole) with 4-methoxyphenol and 1,3-dicyclohexylcarbodiimide to give 9.2 g (57%) of N-benzyloxycarbonyl-(S)-alanine 4-methoxyphenyl ester, mp 128°-129° C.; [α]D25 -18.98° (c=0.769, CHCl3); IR (KBr): 3320, 1750 and 1660 cm-1 ; NMR (δ): 1.52 (3H, d, J=7.4 Hz), 3.72 (3H, s), 4.48 (1H, q, J=7.4 Hz), 5.08 (2H, s), 5.36-5.48 (1H, broad, signal disappeared in D2O), 6.68-7.48 (9H, m). Anal. for C18H19NO5 : Calcd: C, 65.65; H, 5,77; N, 4.25. Found: C, 65.74; H, 5.91; N, 4.31.

reactant | 4-Methoxyphenylalaninate | COC1=CC=C(C[C@H](N)C(=O)[O-])C=C1
reactant | N-benzyloxycarbonyl-(S)-alanine | 0.049 mole, 10.9 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | 1,3-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | N-benzyloxycarbonyl-(S)-alanine 4-methoxyphenyl ester | 9.2 g, 57% | COC1=CC=C(C=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O | C18H19NO5
